US08895733B2
Intermediate 171: 6-(Tetrahydro-furan-3-yloxy)-nicotinic acid
To 6-chloro-nicotinic acid (415 mg, 2.59 mmol), was added 3-hydroxytetrahydrofuran (468 mg, 5.16 mmol), potassium hydroxide (579 mg, 10.3 mmol) and DMSO (5 mL). The mixture was heated at 120 C for 24 h. Further potassium hydroxide (579 mg) and 3-hydroxytetrahydrofuran (468 mg) was added and the mixture heated at 120 C for 24 h. The reaction was allowed to cool to room temperature, acidified to pH=1-2 with a 2M aq. solution of HCl (13 mL) and extracted into EtOAc (3×5 mL). The combined extracts were washed with water (5×20 mL), saturated brine (2×20 mL) and dried over anhydrous sodium sulfate. Evaporation of the solvent afforded the title compound as an orange solid which was dried under high vacuum to remove traces of solvent (209 mg, 39%). Method B HPLC-MS: MH+ requires m/z=210. Found: m/z=210, Rt=1.32 min (100%).

reactant | 6-chloro-nicotinic acid | 2.59 mmol, 415 mg | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | 3-hydroxytetrahydrofuran | 5.16 mmol, 468 mg | OC1COCC1 | C4H8O2
reactant | potassium hydroxide | 10.3 mmol, 579 mg | [OH-].[K+]
reactant | potassium hydroxide | 579 mg | [OH-].[K+]
reactant | 3-hydroxytetrahydrofuran | 468 mg | OC1COCC1 | C4H8O2
reactant | HCl | 13 mL | Cl | ClH
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 6-(Tetrahydro-furan-3-yloxy)-nicotinic acid | O1CC(CC1)OC1=NC=C(C(=O)O)C=C1 | C10H11NO4
